US04705553
192 g of propionaldehyde are added dropwise to a solution of 402 g of 2-phenylpropan-1-al and 12 g of sodium hydroxide in 1 l of methanol in the course of 6 hours. Stirring is continued for one hour, after which the mixture is neutralized with glacial acetic acid (pH=6), stirred overnight and evaporated down, the residue is taken up with CH2Cl2 /H2O, and the solution is extracted with CH2Cl2. The organic phase is washed with water, dried over Na2SO4, evaporated down again and distilled to give 178 g of 2,4-dimethyl-4-phenylbut-2-en-1-al of boiling point 108°-120° C./0.5 mbar.

reactant | propionaldehyde | 192 g | C(CC)=O | C3H6O
reactant | 2-phenylpropan-1-al | 402 g | C1(=CC=CC=C1)C(C=O)C | C9H10O
reactant | sodium hydroxide | 12 g | [OH-].[Na+]
reactant | acetic acid | pH=6 | C(C)(=O)O | C2H4O2
solvent | methanol | 1 l | CO | CH4O
product | 2,4-dimethyl-4-phenylbut-2-en-1-al | 178 g | CC(C=O)=CC(C1=CC=CC=C1)C | C12H14O
